### PR TITLE
feat: define loopy games

### PR DESCRIPTION
**Pull request by vihdzp**
We (morally) define loopy games `LGame` as the coinductive type from the single constructor

```
  | ofSets (s t : Set LGame.{u}) [Small.{u} s] [Small.{u} t] : LGame.{u}
```

Arbitrary loopy games can be built from the corecursor `LGame.corec`; equality between loopy games can be established through `eq_of_bisim`. We do some battle testing for both by defining `on`, `off`, and `dud`, and proving the most basic results on them.

This PR re-does #156 but golfing basically every result.

- [x] depends on: #159

### CODE REVIEW

File: CombinatorialGames/Game/Loopy/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,371 @@
...
+private theorem unique (f g : Subtype (Reachable leftMoves rightMoves init) → LGame.{u})
+    (hf : QPF.Cofix.dest ∘ f ∘ (equivShrink _).symm =
+      Functor.map (f ∘ (equivShrink _).symm) ∘ dest leftMoves rightMoves init)
+    (hg : QPF.Cofix.dest ∘ g ∘ (equivShrink _).symm =
+      Functor.map (g ∘ (equivShrink _).symm) ∘ dest leftMoves rightMoves init) (x) : f x = g x :=
+  congrFun ((equivShrink _).symm.surjective.right_cancellable.1 <|
+    QPF.Cofix.unique (dest leftMoves rightMoves init) _ _ hf hg) x
+
+/-- The corecursor on the subtype of reachable nodes. -/
+private noncomputable def corec' (x : Subtype (Reachable leftMoves rightMoves init)) :=
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Loopy/Basic.lean]: This is in a `noncomputable section`.

```suggestion
private def corec' (x : Subtype (Reachable leftMoves rightMoves init)) :=
```

File: CombinatorialGames/Game/Loopy/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,371 @@
...
+  QPF.Cofix.corec (dest _ _ _) (equivShrink _ x)
+
+/-- The corecursor on `LGame`.
+
+You can use this in order to define an arbitrary `LGame` by "drawing" its move graph on some other
+type. As an example, `on = {on | }ᴸ` is defined as `corec ⊤ ⊥ ()`. -/
+noncomputable def corec : LGame.{u} :=
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Loopy/Basic.lean]: This is in a `noncomputable section`.

```suggestion
def corec : LGame.{u} :=
```

File: CombinatorialGames/Game/Loopy/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,371 @@
...
+shows that the trees are isomorphic. -/
+theorem eq_of_bisim (r : LGame → LGame → Prop)
+    (H : ∀ x y, r x y → (∃ s : Set (LGame × LGame),
+      Prod.fst '' s = x.leftMoves ∧ Prod.snd '' s = y.leftMoves ∧ ∀ z ∈ s, r z.1 z.2) ∧
+        (∃ t : Set (LGame × LGame),
+      Prod.fst '' t = x.rightMoves ∧ Prod.snd '' t = y.rightMoves ∧ ∀ z ∈ t, r z.1 z.2))
+    (x y : LGame.{u}) (hxy : r x y) : x = y := by
+  refine QPF.Cofix.bisim r (fun x y hxy ↦ ?_) x y hxy
+  obtain ⟨⟨s, hs₁, hs₂, hs⟩, ⟨t, ht₁, ht₂, ht⟩⟩ := H _ _ hxy
+  simp only [Set.ext_iff, mem_image, Prod.exists, exists_and_right, exists_eq_right] at *
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Loopy/Basic.lean]:
```suggestion
  simp_rw [Set.ext_iff, mem_image, Prod.exists, exists_and_right, exists_eq_right] at *
```

File: CombinatorialGames/Game/Loopy/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,371 @@
...
+    infer_instance
+  · have : Small.{u} t := small_subset (s := rightMoves x ×ˢ rightMoves y) fun z hz ↦
+      ⟨(ht₁ z.1).1 ⟨_, hz⟩, (ht₂ z.2).1 ⟨_, hz⟩⟩
+    infer_instance
+  all_goals
+    ext z
+    all_goals
+      simp [GameFunctor.map_def, ← range_comp]
+      revert z
+      assumption
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Loopy/Basic.lean]:
```suggestion
      revert z
      simpa [GameFunctor.map_def, ← range_comp]
```

File: CombinatorialGames/Game/Loopy/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,371 @@
...
+import CombinatorialGames.Game.Functor
+import CombinatorialGames.Mathlib.Small
+import Mathlib.Data.Setoid.Basic
+import Mathlib.Logic.Small.Set
+
+/-!
+# Loopy games
+
+The standard notion of a game studied in combinatorial game theory is that of a terminating game,
+meaning that there exists no infinite sequence of moves. Loopy games relax this condition, and thus
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Loopy/Basic.lean]: This beginning part is a little misleading? Loopy games aren't well-founded, but this seems to imply that loopy games allow for general non-well-foundedness with an infinite sequence of moves, even unique ones.

File: CombinatorialGames/Game/Loopy/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,371 @@
...
+roughly be interpreted as saying "if two games have the same shape, they're equal". In this case,
+the relation `r a b ↔ a = x ∧ b = y` is a bisimulation between both games, which proves their
+equality.
+-/
+
+open Set
+
+universe u v w
+
+-- This is problematic as an instance.
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Loopy/Basic.lean:45]:
```suggestion
/-! ### For Mathlib -/

-- This is problematic as an instance.
```

**Review by tristan-f-r — CHANGES_REQUESTED** [review]
Small comment on the loopy games docstring, and some misc golfs.

File: CombinatorialGames/Game/Loopy/Basic.lean (hunk 5 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Loopy/Basic.lean]: Sorry, I don't get what you mean. General non-well-foundedness? With unique what?

Comment (tristan-f-r) [reply CombinatorialGames/Game/Loopy/Basic.lean]: Sorry, let me make a docs suggestion 👍

File: CombinatorialGames/Game/Loopy/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,371 @@
...
+import CombinatorialGames.Mathlib.Small
+import Mathlib.Data.Setoid.Basic
+import Mathlib.Logic.Small.Set
+
+/-!
+# Loopy games
+
+The standard notion of a game studied in combinatorial game theory is that of a terminating game,
+meaning that there exists no infinite sequence of moves. Loopy games relax this condition, and thus
+allow "self-refential" games, with the basic examples being `on = {on | }`, `off = { | off}`, and
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Loopy/Basic.lean]:
```suggestion
meaning that there exists no infinite sequence of moves. Loopy games relax this condition by
allowing "self-refential" games, with the basic examples being `on = {on | }`, `off = { | off}`, and
```

Comment (vihdzp) [reply CombinatorialGames/Game/Loopy/Basic.lean]: Oh, I get what you mean now. Yeah, that's a better way to put it!
